US05371101
To aminoacetoaldehyde diethylacetal (7.8 ml, 53.6 mmol) was added dropwise 10 g (53.4 mmol) of 4-trifluoromethylphenylisocyanate at 0° C. during five minutes. The reaction solution was stirred for one hour at room temperature. The crystals thus produced was collected by filtration and washed with hexane to give 16.2 g of 1-(2,2-diethoxyethyl)-3-(4-trifluoromethylphenyl)urea (95%) as a colorless powder.

reactant | aminoacetoaldehyde diethylacetal | 53.6 mmol, 7.8 ml | C(C)OC(CN)OCC | C6H15NO2
reactant | 4-trifluoromethylphenylisocyanate | 53.4 mmol, 10 g | FC(C1=CC=C(C=C1)N=C=O)(F)F | C8H4F3NO
product | 1-(2,2-diethoxyethyl)-3-(4-trifluoromethylphenyl)urea | 16.2 g, 95% | C(C)OC(CNC(=O)NC1=CC=C(C=C1)C(F)(F)F)OCC | C14H19F3N2O3
